US07425634B2
(39b) 2-(2-ethyl-1,3-dioxolan-2-yl)ethanol
To a tetrahydrofuran (50 ml) suspension of lithium aluminum hydride (800 mg, 21.1 mmol), ethyl(2-ethyl-1,3-dioxolan-2-yl)acetate (3.85 g, 20.5 mmol) was added under ice-cool. The mixture was stirred at room temperature for one hour and 30 minutes and cooled on ice. Thereafter, water (0.8 ml), a 15% aqueous sodium hydroxide solution (0.8 ml), and water (2.4 ml) were sequentially added to the mixture under ice cool. Magnesium sulfate was added to the mixture and filtrated through silica gel. The filtrate was concentrated under reduced pressure to obtain the title compound (2.76 g, 92.1%) as an oil.

reactant | lithium aluminum hydride | 21.1 mmol, 800 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl(2-ethyl-1,3-dioxolan-2-yl)acetate | 20.5 mmol, 3.85 g | C(C)OC(CC1(OCCO1)CC)=O | C9H16O4
reactant | sodium hydroxide | 0.8 ml | [OH-].[Na+]
reactant | Magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | water | 2.4 ml | O | H2O
solvent | water | 0.8 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-(2-ethyl-1,3-dioxolan-2-yl)ethanol | 2.76 g, 92.1% | C(C)C1(OCCO1)CCO | C7H14O3
